US08809376B2
{(S)-6-[(R)-7-Fluoro-4-(4-methoxybenzyl)-indan-1-yloxy]-2,3-dihydrobenzofuran-3-yl}acetic acid
{(S)-6-[(R)-7-Fluoro-4-(4-methoxybenzyl)-indan-1-yloxy]-2,3-dihydrobenzofuran-3-yl}acetic acid methyl ester (40.9 mg) is dissolved in tetrahydrofuran (4 mL) and 1N aqueous sodium hydroxide solution (0.4 mL) is added. The mixture is stirred at room temperature overnight and then acidified with aqueous 1 N hydrochloric acid (0.4 mL). The solution is submitted to HPLC on reversed phase (MeCN/water) to give the title compound. LC (method 6): tR=0.71 min; Mass spectrum (ESI−): m/z=447 [M−H]−.

reactant | {(S)-6-[(R)-7-Fluoro-4-(4-methoxybenzyl)-indan-1-yloxy]-2,3-dihydrobenzofuran-3-yl}acetic acid methyl ester | 40.9 mg | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)CC2=CC=C(C=C2)OC)=O | C28H27FO5
reactant | sodium hydroxide | 1N, 0.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.4 mL | Cl | ClH
reactant | MeCN water | CC#N.O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | {(S)-6-[(R)-7-Fluoro-4-(4-methoxybenzyl)-indan-1-yloxy]-2,3-dihydrobenzofuran-3-yl}acetic acid | FC=1C=CC(=C2CC[C@H](C12)OC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1)CC1=CC=C(C=C1)OC | C27H25FO5
